US07402680B2
1-Benzyl-3-(4-chloro-phenyl)-1,4,5,6,7,8-hexahydro-1,2,6-triaza-azulene Citrate Salt
1-Benzyl-3-(4-chloro-phenyl)-4,5,7,8-tetrahydro-1H-1,2,6-triaza-azulene-6-carboxylic acid tert-butyl ester. To a 1-L, three-necked, round-bottomed flask was added Pd(dppf)Cl2 (2.8 g, 3.4 mmol), 1,1′-bis(diphenylphosphino)ferrocene (0.96 g, 1.73 mmol), Bu4N+Br− (2.78 g, 8.6 mmol), Na2CO3 (36.5 g, 344 mmol) and 2-(4-chloro-phenyl)-benzo[1,3,2]dioxaborole (23.8 g, 103 mmol), under N2. A solution of 1-benzyl-3-trifluoromethanesulfonyloxy-4,5,7,8-tetrahydro-1H-1,2,6-triaza-azulene-6-carboxylic acid tert-butyl ester (41 g, 86 mmol) in toluene (250 mL) was added, followed by the addition of H2O (250 mL) via syringe. The reaction mixture was stirred at reflux for 3 h and then was cooled to rt. The organic layer was diluted with EtOAc (200 mL) and then was washed with 1 M aq. K2CO3 until the color of the aqueous layer stabilized. The organic layer was washed with brine (200 mL), dried over MgSO4, filtered, and concentrated. The crude product thus obtained was pad-filtered through a short plug of SiO2 to afford the title compound (34.5, 79 mmol, 92%) as a white solid. MS (ESI): exact mass calculated for C25H28ClN3O2, 437.19; found, m/z 438.1, [M+H]+. HPLC (Method B): Rt=10.89 min. 1H NMR (400 MHz, CDCl3): 7.50-7.45 (m, 2H), 7.40-7.36 (m, 2H), 7.36-7.25 (m, 3H), 7.13-7.10 (m, 2H), 5.35-5.33 (m, 2H), 3.56-3.50 (m, 4H), 2.83-2.75 (m, 4H), 1.28-1.25 (m, 9H).

reactant | 1-Benzyl-3-(4-chloro-phenyl)-4,5,7,8-tetrahydro-1H-1,2,6-triaza-azulene-6-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC=2C(=NN(C2CC1)CC1=CC=CC=C1)C1=CC=C(C=C1)Cl | C25H28ClN3O2
reactant | Na2CO3 | 344 mmol, 36.5 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 2-(4-chloro-phenyl)-benzo[1,3,2]dioxaborole | 103 mmol, 23.8 g | ClC1=CC=C(C=C1)B1OC2=C(O1)C=CC=C2 | C12H8BClO2
reactant | 1-benzyl-3-trifluoromethanesulfonyloxy-4,5,7,8-tetrahydro-1H-1,2,6-triaza-azulene-6-carboxylic acid tert-butyl ester | 86 mmol, 41 g | C(C)(C)(C)OC(=O)N1CCC=2C(=NN(C2CC1)CC1=CC=CC=C1)OS(=O)(=O)C(F)(F)F | C20H24F3N3O5S
reactant | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(dppf)Cl2 | 3.4 mmol, 2.8 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 1.73 mmol, 0.96 g | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | H2O | 250 mL | O | H2O
product | 1-Benzyl-3-(4-chloro-phenyl)-1,4,5,6,7,8-hexahydro-1,2,6-triaza-azulene Citrate Salt | 79 mmol, 92% | C(CC(O)(C(=O)O)CC(=O)O)(=O)O.C(C1=CC=CC=C1)N1N=C(C=2CCNCCC12)C1=CC=C(C=C1)Cl | InChI=1S/C20H20ClN3.C6H8O7/c21-17-8-6-16(7-9-17)20-18-10-12-22-13-11-19(18)24(23-20)14-15-4-2-1-3-5-15;7-3(8)1-6(13,5(11)12)2-4(9)10/h1-9,22H,10-14H2;13H,1-2H2,(H,7,8)(H,9,10)(H,11,12)
